US04259510
To a 100 ml flask fitted with a magnetic stirrer and drying tube is added dimethyl sulfoxide (50 ml), anhydrous potassium carbonate (3.6 g, 0.026 mole) and 2-chloro-4-trifluoromethylphenol (4.8 L g, 0.024 mole). This mixture is stirred at room temperature overnight. 5-Fluoro-2-nitrobenzamide (4.5 g, 0.024 mole) is added rapidly and the reaction mixture stirred at room temperature for 24 hours. The reaction mixture is poured into water (300 ml) and triturated with carbon tetrachloride (50 ml). The water and carbon tetrachloride insoluble solid is collected by filtration and dried under vacuum to afford 1.2 g of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzamide, mp 139°-43° C. Anal. Calcd. for C14H8ClF3N2O4 : C, 46.62; H, 2.23; Cl, 9.83; N, 7.76. Found: C, 45.77; H, 2.30; Cl, 10.62; N, 7.91.

reactant | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | potassium carbonate | 0.026 mole, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethylphenol | 0.024 mole, 4.8 L | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | 5-Fluoro-2-nitrobenzamide | 0.024 mole, 4.5 g | FC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C7H5FN2O3
solvent | water | 300 ml | O | H2O
product | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzamide | 1.2 g | ClC1=C(OC=2C=CC(=C(C(=O)N)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H8ClF3N2O4
